US06914074B2
2-(4-Methoxyphenyl)naphthalene
The title compound was prepared by reacting 2-bromonaphthalene (3.04 g, 14.7 mmol) with 4-methoxyphenylmagnesium bromide according to method used to prepared intermediate 10 to yield 2.89 g (89%) of a white solid: mp 114° C.; 1H NMR (CDCl3): δ 3.86 (3H, s), 7.01 (2H, d, J=9.06 Hz), 7.43-7.50 (2H, m), 7.65 (2H, d, J=8.73 Hz), 7.71 (1H, dd, J=1.84 Hz, J=8.56 Hz), 7.83-7.89 (3H, m), 7.98 (1H, d, J=0.67 Hz); MS (EI) m/z 234 (M)+.

reactant | 2-bromonaphthalene | 14.7 mmol, 3.04 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | 4-methoxyphenylmagnesium bromide | COC1=CC=C(C=C1)[Mg]Br
product | 2-(4-Methoxyphenyl)naphthalene | COC1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1 | C17H14O
